US07728030B2
N-((1R,2S)-1-(1-(4-chlorophenyl)-1H-indazol-5-yloxy)-1-(3-methoxyphenyl)propan-2-yl)-2,2,2-trifluoroacetamide
(1R,2S)-1-(1-(4-chlorophenyl)-1H-indazol-5-yloxy)-1-(3-methoxyphenyl)propan-2-amine (250 mg, 0.61 mmol) was dissolved in THF (5 mL), N,N-diisopropylethylamine (255 μl, 1.54 mmol) was added. Trifluoroacetic anhydride (105 μl, 0.74 mmol) was added and the mixture was stirred at r.t. for 30 min. The reaction mixture was concentrated and the residual material was purified by HPLC, C-18, 50-90% MeCN/water gradient, the pure fractions was combined and freeze dried. Yield: 187 mg (60%).

reactant | (1R,2S)-1-(1-(4-chlorophenyl)-1H-indazol-5-yloxy)-1-(3-methoxyphenyl)propan-2-amine | 0.61 mmol, 250 mg | ClC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C23H22ClN3O2
reactant | N,N-diisopropylethylamine | 1.54 mmol, 255 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Trifluoroacetic anhydride | 0.74 mmol, 105 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-((1R,2S)-1-(1-(4-chlorophenyl)-1H-indazol-5-yloxy)-1-(3-methoxyphenyl)propan-2-yl)-2,2,2-trifluoroacetamide | ClC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(C(F)(F)F)=O)C1=CC(=CC=C1)OC | C25H21ClF3N3O3
